US06930120B2
2-(2-Methoxy-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared using the representative Standard Procedure (E) from 3-(4-Hydroxyphenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3): • 7.99-7.97 (m, 2H), 7.47 (dd, 3H, J=5.08 Hz, 1.96 Hz), 7.18 (d, 2H, J=8.60), 7.07 (td, 1H, J=6.65 Hz, 1.56 Hz), 6.89-6.80 (m, 4H), 6.63 (dd, 1H, J=7.82 Hz, 1.56 Hz), 4.21 (t, 2H, J=6.26 Hz), 3.82 (s, 3H), 3.30 (d, 1H, J=14.1 Hz), 3.10-3.04 (m, 3H), 2.41 (s, 3H), 1.30 (s, 3H). MS [ES+] m/z exact mass calcd for C29H30NO6 488.2073, found 488.2086.

reactant | 3-(4-Hydroxyphenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)OC)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
product | 2-(2-Methoxy-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | COC1=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)C)C=CC=C1 | C29H29NO6
